US07141561B2
1-(4-Cyclopentyloxyphenyl)-3-{4-[2-(cyclopropylmethyl(methyl)amino)-ethoxy]phenyl}-1,3-dihydroimidazol-2-one
1-[4-(2-Bromoethoxy)phenyl]-3-(4-cyclopentyloxyphenyl)-1,3-dihydroimidazol-2-one was reacted with cyclopropylmethyl(methyl)amine as described in example 5. The product with the molecular weight of 447.58 (C27H33N3O3); MS (ESI): 448 ([M+H]+) was obtained in this way.

reactant | 1-[4-(2-Bromoethoxy)phenyl]-3-(4-cyclopentyloxyphenyl)-1,3-dihydroimidazol-2-one | BrCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1CCCC1)=O | C22H23BrN2O3
reactant | cyclopropylmethyl(methyl)amine | C1(CC1)CNC | C5H11N
product | 1-(4-Cyclopentyloxyphenyl)-3-{4-[2-(cyclopropylmethyl(methyl)amino)-ethoxy]phenyl}-1,3-dihydroimidazol-2-one | C1(CCCC1)OC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OCCN(C)CC1CC1)=O | C27H33N3O3
